US08110688B2
Synthesis of 1-{1-[2-(7-methoxy-2.2-dimethyl-4-oxochroman-8-yl)ethyl]piperidin-4-yl}-1H-indole-6-carboxylic acid
4.0 g of the above crude product of methyl 1-{1-[2-(7-methoxy-2,2-dimethyl-4-oxochroman-8-yl)ethyl]piperidin-4-yl}-1H-indole-6-carboxylate was dissolved in 40.0 mL of tetrahydrofuran and added with 16 mL of 1 N aqueous sodium hydroxide. 20 mL of methanol was added to remove the separation of layers of the reaction mixture, and the reaction mixture was stirred at 40° C. for about 20.5 hours. When the reaction mixture was cooled with an ice-water bath and the pH was adjusted to 7 with 15 mL of 1 N hydrochloric acid, crystals precipitated. 10 mL of water was further added to this slurry, and crystals were obtained by filtration and the crystals were washed with 24 mL of a mixture of 2-propanol and water (1:5). The crystals were dried in vacuo and 3.34 g of the title compound was obtained.

reactant | methyl 1-{1-[2-(7-methoxy-2,2-dimethyl-4-oxochroman-8-yl)ethyl]piperidin-4-yl}-1H-indole-6-carboxylate | COC1=CC=C2C(CC(OC2=C1CCN1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)OC)(C)C)=O | C29H34N2O5
reactant | sodium hydroxide | 1 N, 16 mL | [OH-].[Na+]
reactant | methanol | 20 mL | CO | CH4O
solvent | tetrahydrofuran | 40.0 mL | O1CCCC1 | C4H8O
product | 1-{1-[2-(7-methoxy-2.2-dimethyl-4-oxochroman-8-yl)ethyl]piperidin-4-yl}-1H-indole-6-carboxylic acid | 3.34 g | COC1=CC=C2C(CC(OC2=C1CCN1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)O)(C)C)=O | C28H32N2O5
